US09377466B2
3,5-Bis[[bis(2-pyridylmethyl)amino]methyl]benzoic acid * TEA salt/PP1 (4)
Methyl 3,5-bis[[bis(2-pyridylmethyl)amino]methyl]benzoate (1 g, 1.8 mmol) was dissolved in MeOH (50 mL) and 10% solution of NaOH (5 mL) was added. The reaction mixture was refluxed for 2 h (reaction progress was monitored by TLC, Al2O3, MeOH/AcOEt 1:9 (v/v)). The reaction mixture was cooled to 0° C. followed by the addition of 10M HCl until pH=2 was reached followed by solvent evaporation under reduced pressure. Obtained yellow oily suspension was redissolved in water (50 mL) and TEA (3.6 g, 36 mmol) was added dropwise. Aqueous solution was extracted with DCM (2×50 mL) and organic layers were combined, evaporated and dried under high vacuum to obtain a product as a viscous oil. Yield: 1.1 g (95%). 1H NMR (500 MHz, CDCl3) δ 8.50 (m, 3H), 7.99 (d, J=1.3 Hz, 2H), 7.66 (d, J=8.7 Hz, 1H), 7.59 (m, 8H), 7.11 (m, 4H), 3.82 (s, 8H), 3.70 (s, 4H), 3.06 (q, J=7.3 Hz, 6H), 1.29 (t, J=7.3 Hz, 9H). 13C NMR (101 MHz, CDCl3) δ 170.2, 159.4, 148.9, 148.6, 138.8, 136.6, 136.5, 133.4, 132.7, 129.1, 122.9, 122.0, 77.3, 76.7, 60.1, 59.8, 58.5, 45.0, 8.5.

reactant | Methyl 3,5-bis[[bis(2-pyridylmethyl)amino]methyl]benzoate | 1.8 mmol, 1 g | N1=C(C=CC=C1)CN(CC1=NC=CC=C1)CC=1C=C(C(=O)OC)C=C(C1)CN(CC1=NC=CC=C1)CC1=NC=CC=C1 | C34H34N6O2
reactant | NaOH | 5 mL | [OH-].[Na+]
reactant | MeOH AcOEt | CO.CCOC(=O)C
reactant | HCl | 10M | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 3,5-Bis[[bis(2-pyridylmethyl)amino]methyl]benzoic acid | N1=C(C=CC=C1)CN(CC1=NC=CC=C1)CC=1C=C(C(=O)O)C=C(C1)CN(CC1=NC=CC=C1)CC1=NC=CC=C1 | C33H32N6O2
